** sch_path: /home/user/xschem_projects/8Tsram_test.sch
**.subckt 8Tsram_test
V3 BL GND PULSE(0 1.8 1ns 100ps 100ps 5ns 10ns 2)
V4 WL GND PULSE(0 1.8 1.5ns 100ps 100ps 4ns 5ns 4)
V5 BLB GND PULSE(0 1.8 6ns 100ps 100ps 5ns 10ns 2)
VSS VCC GND 1.8
XM6 RBL VCC GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
x1 VCC RWL BLB BL WL RBL GND 8T_sram_cell
VSS1 RWL GND 1.8
x2 VCC RWL BLB2 BL2 WL RBL GND 8T_sram_cell
V1 BL2 GND PULSE(0 1.8 1ns 100ps 100ps 10ns 20ns 1)
V2 BLB2 GND PULSE(0 1.8 11ns 100ps 100ps 10ns 20ns 1)
**** begin user architecture code


**vcc vcc 0 DC 1.8
**vss vss 0 DC 0


.tran 0.01ns 30ns
.control
run
* plot RBL WL+2 BL+2.1 BLB+2.1
plot RBL BL+2 BL2+4 BLB+6 BLB2+8 WL+10
.endc
.saveall




** opencircuitdesign pdks install
.lib /home/user/.ciel/ciel/sky130/versions/d400e26845538beaeb7cc5fdb9bfc06c30ea27cb/sky130A/libs.tech/combined/sky130.lib.spice tt

**** end user architecture code
**.ends

* expanding   symbol:  8T_sram_cell.sym # of pins=7
** sym_path: /home/user/xschem_projects/8T_sram_cell.sym
** sch_path: /home/user/xschem_projects/8T_sram_cell.sch
.subckt 8T_sram_cell VCC RWL BLB BL WL RBL VSS
*.iopin VCC
*.iopin BLB
*.iopin WL
*.iopin BL
*.iopin VSS
*.iopin RBL
*.iopin RWL
XM1 q_bar q VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM2 q q_bar VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM3 q_bar q VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM4 q q_bar VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM5 BLB WL q_bar VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM6 read RWL RBL RBL sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM7 VCC q read read sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM8 q WL BL VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.end
